US09416132B2
To a solution of 3-bromo-6-chloroimidazo[1,2-b]pyridazine (2 g, 8.6 mmol) and 3-(cyano)phenylboronic acid (1.26 g, 8.6 mmol) in dioxane/H2O (100 mL, 4:1) was added K2CO3 (2.38 g, 17.2 mmol) and Pd(PPh3)4 (0.19 g, 0.172 mmol), the mixture was stirred at 110° C. for 3 h. The solution was concentrated and partitioned in EtOAc/H2O. The aqueous layer was washed with EtOAc (50 mL) 3 times. The collected organic layers were dried over Na2SO4, concentrated and purified by column chromatography to give compound 3-(6-chloroimidazo[1,2-b]pyridazin-3-yl)benzonitrile (1.2 g, 4.71 mmol, yield 55%) as a brown solid.

reactant | 3-bromo-6-chloroimidazo[1,2-b]pyridazine | 8.6 mmol, 2 g | BrC1=CN=C2N1N=C(C=C2)Cl | C6H3BrClN3
reactant | 3-(cyano)phenylboronic acid | 8.6 mmol, 1.26 g | C(#N)C=1C=C(C=CC1)B(O)O | C7H6BNO2
reactant | K2CO3 | 17.2 mmol, 2.38 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 100 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.172 mmol, 0.19 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-(6-chloroimidazo[1,2-b]pyridazin-3-yl)benzonitrile | 4.71 mmol, 1.2 g, yield 55% | ClC=1C=CC=2N(N1)C(=CN2)C=2C=C(C#N)C=CC2 | C13H7ClN4
